US05990133
4-Amino-2-(pyridin-3-yloxy)pyridine (D45)
4-Nitro-2-(pyridin-3-yloxy)pyridine-N-oxide (D44) (1 g, 4.3 mmol) in acetic acid (75 ml) was treated with iron powder (1.2 g, 21.4 mmol) at room temperature. After 2 h the mixture was concentrated under reduced pressure and partitioned between 2M aq NaOH (100 ml) and dichloromethane (4×100 ml). The combined extracts were dried and evaporated to a white crystalline solid (0.75 g, 93%) which was used without further purification.

reactant | 4-Nitro-2-(pyridin-3-yloxy)pyridine-N-oxide | 4.3 mmol, 1 g | [N+](=O)([O-])C1=CC(=[N+](C=C1)[O-])OC=1C=NC=CC1 | C10H7N3O4
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 21.4 mmol, 1.2 g | [Fe] | Fe
product | 4-Amino-2-(pyridin-3-yloxy)pyridine | NC1=CC(=NC=C1)OC=1C=NC=CC1 | C10H9N3O
